US09056858B2
Synthesis of [3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoylamino]-acetic acid methyl ester (15)
To a solution of 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid (0.200 g, 0.480 mmol), Gly-OMe.HCl (68.1 mg, 0.543 mmol) and N,N-diisopropylethylamine (426 μL, 2.40 mmol) in DMF (4.5 mL) is added TBTU (192 mg, 0.600 mmol). After 4 hours, the mixture is concentrated in vacuo. The residue is dissolved in ethyl acetate (100 mL) and washed with 2N sodium hydroxide (3×50 mL), saturated aqueous ammonium chloride (2×50 mL), saturated aqueous sodium bicarbonate (50 mL), brine (50 mL). The organic layer is dried over MgSO4, filtered and concentrated. The residue is purified by silica gel chromatography eluting with a gradient of 0-8% methanol in methylene chloride to give a foam, which is triturated with ether (3 mL), filtered, washed with cold ether (3×3 mL) and air dried to afford the title compound.

reactant | 3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoic acid | 0.480 mmol, 0.200 g | FC1=CC=C(C=C1)N1N=CC2=C1C=NC=C2C(=O)NC2(CC2)C=2C=C(C(=O)O)C=CC2 | C23H17FN4O3
reactant | Gly-OMe.HCl | 0.543 mmol, 68.1 mg | NCC(=O)OC.Cl
reactant | N,N-diisopropylethylamine | 2.40 mmol, 426 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 0.600 mmol, 192 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
product | [3-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-benzoylamino]-acetic acid methyl ester | COC(CNC(C1=CC(=CC=C1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F)=O)=O | C26H22FN5O4
